US09255089B2
A suspension of 6-(3,5-dimethylisoxazol-4-yl)-4-(1-(4-fluorophenyl)vinyl)-1H-benzo[d]imidazol-2(3H)-one (60 mg, 0.172 mmol) and 10% palladium on carbon (20 mg) in 5 mL ethanol was purged with hydrogen gas and allowed to stir for 2 hours. The reaction mixture was then filtered and the solvents evaporated. Residue was purified by preparative HPLC which afforded 6-(3,5-dimethylisoxazol-4-yl)-4-(1-(4-fluorophenyl)ethyl)-1H-benzo[d]imidazol-2(3H)-one.

reactant | 6-(3,5-dimethylisoxazol-4-yl)-4-(1-(4-fluorophenyl)vinyl)-1H-benzo[d]imidazol-2(3H)-one | 0.172 mmol, 60 mg | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)C(=C)C1=CC=C(C=C1)F)C | C20H16FN3O2
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 6-(3,5-dimethylisoxazol-4-yl)-4-(1-(4-fluorophenyl)ethyl)-1H-benzo[d]imidazol-2(3H)-one | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)C(C)C1=CC=C(C=C1)F)C | C20H18FN3O2
